US06989392B2
N-methyl-8-(1,3,3-trimethylbutoxy)quinolin-2-amine
A 7.5 mL conical microwave vessel (Personal Chemistry) equipped with a septum cap and a magnetic stirring bar was charged with 0.25 g (0.90 mmol) of 2-Chloro-8-(1,3,3-trimethylbutoxy)quinoline, NEt3 (1.26 mL) and NMP (1.26 mL). The resulting suspension was irradiated in Personal Chemistry Smith Synthesizer (220° C. for 25 min; 300 W). Upon cooling, the residue was dissolved in a 3:1 hexanes/CH2Cl2 mixture (10 mL) and washed with H2O. The organic layer was evaporated in vacuo and the residue was purified by silica gel column chromatography (5–15% MeOH/CH2Cl2) to afford the title compound. 1H NMR (500 MHz, DMSO-d6) δ ppm 6.67–7.79 (m, 5H), 4.87 (m, 1H), 3.11 (m, 3H), 2.03 (m, 1H), 1.56 (m, 1H), 1.30 (m, 3H), 0.89 (m, 9H); MS (DCI/NH3) m/z 273 [M+H]+.

reactant | 2-Chloro-8-(1,3,3-trimethylbutoxy)quinoline | 0.90 mmol, 0.25 g | ClC1=NC2=C(C=CC=C2C=C1)OC(CC(C)(C)C)C | C16H20ClNO
reactant | NEt3 | 1.26 mL | CCN(CC)CC | C6H15N
solvent | NMP | 1.26 mL | CN1CCCC1=O | C5H9NO
product | N-methyl-8-(1,3,3-trimethylbutoxy)quinolin-2-amine | CNC1=NC2=C(C=CC=C2C=C1)OC(CC(C)(C)C)C | C17H24N2O
